US07141671B2
(b) 9-Bromo-1,1-dimethoxynonane
To a 100 mL round-bottomed flask was added 9-bromononanal (7.2 g, 32.5 mmol), methanol (30 mL) and trimethylorthoformate (4 mL, 36.5 mmol). A solution of 4 N hydrochloric acid in dioxane (0.2 mL, 0.8 mmol) was added and the resulting mixture was refluxed for 3 h. The reaction mixture was then cooled to room temperature and solid sodium bicarbonate (100 mg, 1.2 mmol) was added. The resulting mixture was concentrated to one-fourth its original volume under reduced pressure and then ethyl acetate (50 mL) was added. The organic layer was washed with water (2×40 mL), dried (MgSO4), filtered and concentrated under reduced pressure to afford the title intermediate (8.44 g, (97% yield)) as a liquid, which as used in the next step without further purification.

reactant | 9-bromononanal | 32.5 mmol, 7.2 g | BrCCCCCCCCC=O | C9H17BrO
reactant | trimethylorthoformate | 36.5 mmol, 4 mL | COC(OC)OC | C4H10O3
reactant | hydrochloric acid | 4 N | Cl | ClH
catalyst | dioxane | 0.8 mmol, 0.2 mL | O1CCOCC1 | C4H8O2
catalyst | sodium bicarbonate | 1.2 mmol, 100 mg | C([O-])(O)=O.[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | 9-Bromo-1,1-dimethoxynonane | 8.44 g, 97% yield | BrCCCCCCCCC(OC)OC | C11H23BrO2
